US05096899
p-Nitrobenzyl 2-(4-chloro-2-oxo-1-azetidinyl)-4,4-dimethyl-3-oxopentanoate
A solution of 439 mg (1.0 mmol) of p-nitrobenzyl 2-(4-tert-butylthio-2-oxo-1-azetidinyl)-4,4-dimethyl-3-oxopentanoate in 20 ml of dry methylene chloride is cooled to -50° C. and a solution of 166 mg of chlorine in 1.6 ml of carbon tetrachloride is added. After stirring the mixture for thirty minutes at -50° C., the solvent is evaporated in vacuo and the residue is recrystallized from methylene chloride/hexane, the product (348 mg) being obtained as a crystalline solid as a 6:4 mixture of the diastereomeric title compounds.

reactant | p-nitrobenzyl 2-(4-tert-butylthio-2-oxo-1-azetidinyl)-4,4-dimethyl-3-oxopentanoate | 1.0 mmol, 439 mg | C(C)(C)(C)SC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C(C)(C)C)=O)=O | C21H28N2O6S
reactant | chlorine | 166 mg | ClCl | Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 1.6 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | p-Nitrobenzyl 2-(4-chloro-2-oxo-1-azetidinyl)-4,4-dimethyl-3-oxopentanoate | 348 mg | ClC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C(C)(C)C)=O)=O | C17H19ClN2O6
